US04629797
Methyl 2-(4-bromo-3-(tetrahydropyran-2-yloxy)butanamido)acetate
To a solution of 300 mg methyl 2-(4-bromo-3-hydroxybutanamido)acetate in 50 ml methylene chloride are added 30 mg pyridinium p-toluenesulphonate and 1 ml dihydropyran. After stirring at ambient temperature for 20 h, the solvent is evaporated in vacuo and the residue chromatographed on silica, eluting with ether. A colourless oil is obtained in 92% yield, Rf 0.33 (silica gel plates, thickness 0.25, eluent diethyl ether).

reactant | methyl 2-(4-bromo-3-hydroxybutanamido)acetate | 300 mg | BrCC(CC(=O)NCC(=O)OC)O | C7H12BrNO4
reactant | pyridinium p-toluenesulphonate | 30 mg | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
reactant | dihydropyran | 1 ml | O1CCCC=C1 | C5H8O
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | Methyl 2-(4-bromo-3-(tetrahydropyran-2-yloxy)butanamido)acetate | 92% yield | BrCC(CC(=O)NCC(=O)OC)OC1OCCCC1 | C12H20BrNO5
